US07829585B2
2-Amino-N-(5-benzyloxy-benzofuran-2-ylmethyl)-6-methoxymethyl-nicotinamide
To a N,N-dimethylformamide (5 mL) solution of C-(5-benzyloxy-benzofuran-2-yl)-methylamine (135 mg, 533 μmol) described in Production Example 7-1-6 were added 2-amino-6-methoxymethyl-nicotinic acid (107 mg, 586 μmol) described in Production Example 4-1-5, triethylamine (223 μL, 1.60 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (306 mg, 693 μmol) at room temperature, which was stirred at room temperature for 27 hours. Water was added to the reaction solution at room temperature followed by extracting with ethyl acetate. The organic layer was washed with water and sat. NaCl followed by drying over anhydrous magnesium sulfate and filtering. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:5) to obtain the title compound (166 mg, 75%) as a white solid.

reactant | C-(5-benzyloxy-benzofuran-2-yl)-methylamine | 533 μmol, 135 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)CN)C1 | C16H15NO2
reactant | 2-amino-6-methoxymethyl-nicotinic acid | 586 μmol, 107 mg | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
reactant | triethylamine | 1.60 mmol, 223 μL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 693 μmol, 306 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Amino-N-(5-benzyloxy-benzofuran-2-ylmethyl)-6-methoxymethyl-nicotinamide | 166 mg, 75% | NC1=C(C(=O)NCC=2OC3=C(C2)C=C(C=C3)OCC3=CC=CC=C3)C=CC(=N1)COC | C24H23N3O4
